US05393730
Preparation of 2,3-difluoromethylenedioxybenzyl bromide
Phosphorus tribromide (47 g) was added to a solution of 2,3difluoromethylenedioxybenzyl alcohol (32 g) in diethyl ether at 0° C. After 0.5 hours the reaction mixture was allowed to warm to ambient temperature and was stirred at ambient temperature for 3 hours. The reaction mixture was then cooled to 0° C., methanol was added followed by water, the mixture was extracted with diethyl ether, separated and the organic layer washed with saturated sodium bicarbonate (until neutral), dried and the solvent removed to yield the product as a pale yellow oil, (40.4 g), NMR (CDCl3): 4.50(s,2H), 7.10(m,3H).

reactant | Phosphorus tribromide | 47 g | P(Br)(Br)Br | Br3P
reactant | 2,3difluoromethylenedioxybenzyl alcohol | 32 g | FC1=C2C(OCOC(=C1F)C=C2)O | C8H6F2O3
reactant | methanol | CO | CH4O
reactant | water | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2,3-difluoromethylenedioxybenzyl bromide | 40.4 g | FC1=C2C(OCOC(=C1F)C=C2)Br | C8H5BrF2O2
